US05278181
Methyl (±)-[5-[Amino (Phenyl)Methyl]-1H-Benzimidazol-2-yl]Carbamate Dihydrochloride Salt
Methyl (±)-[5-(aminophenylmethyl)-1H-benzimidazol-2-yl]carbamate (1 g) was suspended in water (5 mL). To this mixture was added aqueous HCl (12N) with stirring to adjust the pH to ph ~2. As stirring was continued the hydrochloride salt precipitated from the solution. The mixture was cooled in an ice bath and the title product as a precipitate was collected by filtration, m.p.>300° C. Yield: 1.05 g (ca. 85%).

reactant | Methyl (±)-[5-(aminophenylmethyl)-1H-benzimidazol-2-yl]carbamate | 1 g | NC(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C1=CC=CC=C1 | C16H16N4O2
reactant | HCl | 12N | Cl | ClH
solvent | water | 5 mL | O | H2O
product | Methyl (±)-[5-[Amino (Phenyl)Methyl]-1H-Benzimidazol-2-yl]Carbamate Dihydrochloride Salt | Cl.Cl.NC(C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C1=CC=CC=C1 | InChI=1S/C16H16N4O2.2ClH/c1-22-16(21)20-15-18-12-8-7-11(9-13(12)19-15)14(17)10-5-3-2-4-6-10;;/h2-9,14H,17H2,1H3,(H2,18,19,20,21);2*1H
